US07566724B2
Trimethylsilyldiazomethane (2N, in hexane) (12 ml) was added dropwise to a solution of N-Boc-allylglycine (3.09 g) in dichloromethane/methanol (2/1) mixture (30 ml), and the resulting mixture was stirred at room temperature for 3 hours. After concentrating the reaction solution, the residue was purified by column chromatography (silica gel, eluent: cyclohexane/ethyl acetate=20/1-10/1) to obtain N-Boc-allylglycine methyl ester (3.11 g). NMR (H1, CDCl3): δ 2.43-2.55 (2H, m), 3.72 (3H, s), 4.34-4.39 (1H, brm), 5.02 (1H, brs), 5.09-5.13 (2H, m), 5.62-5.72 (1H, m)

reactant | Trimethylsilyldiazomethane | 2N, 12 ml | C[Si](C)(C)C=[N+]=[N-] | C4H10N2Si
reactant | N-Boc-allylglycine | 3.09 g | C(=O)(OC(C)(C)C)N(CC(=O)O)CC=C | C10H17NO4
solvent | dichloromethane methanol | ClCCl.CO
product | N-Boc-allylglycine methyl ester | 3.11 g | COC(CN(C(=O)OC(C)(C)C)CC=C)=O | C11H19NO4
